US08735417B2
To a solution of ethyl 1-[5-(3-nitrophenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylate (75 mg, 0.21 mmol) in ethyl acetate (1.9 mL) and acetic acid (0.19 mL) was added 10% palladium on carbon (22 mg, 0.021 mmol), and the mixture was stirred under an atmosphere of hydrogen (balloon) for 3 hours. The mixture was filtered through celite, washing with ethyl acetate and the filtrate concentrated under reduced pressure. Purification by CombiFlash (30-70% ethyl acetate:hexanes) provided 60 mg (0.18 mmol, 87% yield) of ethyl 1-[5-(3-aminophenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylate.

reactant | ethyl 1-[5-(3-nitrophenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylate | 0.21 mmol, 75 mg | [N+](=O)([O-])C=1C=C(C=CC1)C1=CN=C(S1)N1CCC(CC1)C(=O)OCC | C17H19N3O4S
solvent | ethyl acetate | 1.9 mL | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 0.19 mL | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 0.021 mmol, 22 mg | [Pd] | Pd
product | ethyl 1-[5-(3-aminophenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylate | 0.18 mmol, 60 mg, 87% yield | NC=1C=C(C=CC1)C1=CN=C(S1)N1CCC(CC1)C(=O)OCC | C17H21N3O2S
